US06037354
4-(3,4-Difluorophenyl)-5-cyclopropyl-2-oxo-oxazolidine-3-carboxylic acid-4-nitro-phenyl ester
To a solution of 4-(3,4-difluorophenyl)-5-cyclopropyl-oxazolidin-2-one (2 g, 8.3 mmol) in 100 mL THF was added a solution of n-butyllithium in hexane (9.1 mmol) dropwise via a syringe under an argon atmosphere at -78° C. The resulting yellow solution was stirred at -78° C. for 10 min. To this solution was then added dropwise via syringe 4-nitrophenylchloroformate (1.03 g, 5.1 mmol) in 20 mL of THF. The reaction was stirred at -78° for 10 min. The reaction mixture was poured into saturated sodium bicarbonate and extracted with ethyl acetate (2×200 mL). The organic extracts were washed with brine, and the organic layer was dried over Na2SO4. The solvent was removed after filtration, and the residue was purified by column chromatography on silica gel 30% ethyl acetate hexane. The material was rechromatographed on silica gel eluting with 2% acetone/methylene chloride to give 1.2 g the product as a thick syrup which solidified upon standing.

reactant | 4-(3,4-difluorophenyl)-5-cyclopropyl-oxazolidin-2-one | 8.3 mmol, 2 g | FC=1C=C(C=CC1F)C1NC(OC1C1CC1)=O | C12H11F2NO2
reactant | n-butyllithium | C(CCC)[Li]
reactant | hexane | 9.1 mmol | CCCCCC | C6H14
reactant | 4-nitrophenylchloroformate | 5.1 mmol, 1.03 g | C1=CC(=CC=C1[N+](=O)[O-])[Cl-]C(=O)[O-]
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | THF | 100 mL | C1CCOC1 | C4H8O
solvent | THF | 20 mL | C1CCOC1 | C4H8O
product | 4-(3,4-Difluorophenyl)-5-cyclopropyl-2-oxo-oxazolidine-3-carboxylic acid-4-nitro-phenyl ester | 1.2 g | [N+](=O)([O-])C1=CC=C(C=C1)OC(=O)N1C(OC(C1C1=CC(=C(C=C1)F)F)C1CC1)=O | C19H14F2N2O6
